### PR TITLE
feat(ErdosProblems/459): add f(u) estimate statement

### PR DESCRIPTION
**Pull request by williamjblair**
Formalises the statement of [Erdős Problem 459](https://www.erdosproblems.com/459): for `f u` the smallest `v > u` all of whose prime factors divide `u`, the estimate `u + 2 ≤ f u ≤ u^2`, with the upper bound attained when `u` is prime (`f p = p^2`).

The proof is linked with `formal_proof using lean4`. Formalised in Lean by **Boris Alexeev** and **Aristotle (Harmonic)**; the lower-bound tightness (`u = 2^k - 2`) and Cambie's `f(n) = (1 + o(1))n` refinement are covered in the linked file and noted in the docstring. Indexed via @plby's `sources.yaml`.

Formalized in Lean by Boris Alexeev and Aristotle (Harmonic)

The statement uses the website's equivalent definition of `f`. It compiles against the FC-pinned Mathlib; `#print axioms` is `sorryAx` by design, since the proof lives in its own repo.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/459.lean [hunk 1]
```diff
@@ -0,0 +1,59 @@
...
+
+/--
+Let $f(u)$ be the largest $v$ such that no $m\in (u,v)$ is composed entirely of primes dividing
+$uv$. Estimate $f(u)$.
+
+The estimate $u + 2 \le f(u) \le u^2$ holds for every $u \ge 2$. The upper bound is attained
+when $u$ is prime, and the lower bound when $u = 2^k - 2$ with $k \ge 2$; Cambie further showed
+that $f(n) = (1 + o(1))n$ for almost all $n$.
+
+This was formalized in Lean by Boris Alexeev and Aristotle (Harmonic).
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/459.lean]:
```suggestion
```

move to pull request comment

File: FormalConjectures/ErdosProblems/459.lean [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+-/
+@[category research solved, AMS 11, formal_proof using lean4 at "https://github.com/Woett/Lean-files/blob/main/ErdosProblem459.lean"]
+theorem erdos_459 {u : ℕ} (hu : 2 ≤ u) : u + 2 ≤ f u ∧ f u ≤ u ^ 2 := by
+  sorry
+
+/--
+The upper bound `f u ≤ u ^ 2` is attained exactly when `u` is prime: `f p = p ^ 2`.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/459.lean]:
```suggestion
The upper bound $f u ≤ u ^ 2$ is attained exactly when `u` is prime: $f p = p ^ 2$.
```

prefer Latex docstrings over backticks

File: FormalConjectures/ErdosProblems/459.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+-/
+@[category research solved, AMS 11, formal_proof using lean4 at "https://github.com/Woett/Lean-files/blob/main/ErdosProblem459.lean"]
+theorem erdos_459_upper_tight {p : ℕ} (hp : p.Prime) : f p = p ^ 2 := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/459.lean]:
```suggestion
theorem erdos_459.variants.upper_tight {p : ℕ} (hp : p.Prime) : f p = p ^ 2 := by
```
that is our naming conventions (see `ErdosProblems/Readme.md`)

**Review by mo271 — APPROVED** [review]
Thanks, looks great mathematically, just a few nits

**Comment by williamjblair** [comment]
Applied all three, thanks @mo271. Renamed to erdos_459.variants.upper_tight, LaTeX in the docstring, and moving the attribution here - formalized in Lean by Boris Alexeev and Aristotle (Harmonic)

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
